US04654360
2-Chloro-3-phenylthioindole
Sulfuryl chloride (0.07 ml, 0.119 g, 0.88 mmol) was added dropwise at 0° to a stirred solution of 3-phenylthioindole (0.200 g, 0.88 mmol) in dry dichloromethane (20 ml). After 1 h the reaction mixture was washed with saturated sodium bicarbonate solution, the organic phase was dried and evaporated in vacuo. The residue was subjected to thin layer chromatography on silica gel eluting the product with hexane-ethyl acetate (7:3). There was obtained the desired product which had m.p. 98°-99° after crystallization from dichloromethane-pentane, and was identical to the material prepared in Example 13.

reactant | Sulfuryl chloride | 0.88 mmol, 0.07 ml, 0.119 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 3-phenylthioindole | 0.88 mmol, 0.200 g | C1(=CC=CC=C1)SC1=CNC2=CC=CC=C12 | C14H11NS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-Chloro-3-phenylthioindole | ClC=1NC2=CC=CC=C2C1SC1=CC=CC=C1 | C14H10ClNS
